### PR TITLE
Introducing unbiased lenses as a generalization of reflexive graph le…

### PR DESCRIPTION
**Pull request by IanRay11**
…nses. A lot of the naming and organization mirrors the previous PR on reflexive graph lenses, so hopefully this can expedite the review! I've tried to explain/motivate the idea which is borrowed from Jon's paper and some of the ideas that will eventually be seen in the upcoming examples file.

### CODE REVIEW

File: source/ReflexiveGraphs/UnbiasedLenses.lagda
Comment (jonsterling) [inline source/ReflexiveGraphs/UnbiasedLenses.lagda]: convenient

File: source/ReflexiveGraphs/UnbiasedLenses.lagda [hunk 1]
```diff
@@ -0,0 +1,290 @@
...
+
+In this file we generalize the two previous notion of lenses, but before diving
+into the techincal details we attempt to motivate the notion of an unbiased lens
+(see index for link to Jon Sterling's "Reflexive graph lenses in univalent
+foundations"). We first note that, not surpisingly, some univalent reflexive
+graphs of interest do not arise naturally from the existing notion of lenses.
+For example consider an isomorphism of magmas (M , ⊗) ≃ (N , ⊗') which consist
+of an equivalence of the underlying types e : M ≃ N that preserves the binary
+operation, that is: e (x ⊗ y) ＝ (e x) ⊗' (e y) for all x, y : M. One would
+expect the reflexive graph on the type of Magmas would arise from the following displayed reflexive graph of the canonical reflexive graph of the underlying
```
Comment (jonsterling) [inline source/ReflexiveGraphs/UnbiasedLenses.lagda]: line wrapping

File: source/ReflexiveGraphs/UnbiasedLenses.lagda [hunk 2]
```diff
@@ -0,0 +1,290 @@
...
+            → u ≈⟨ 𝓑 (≈-refl 𝓐 x) ⟩ rext (≈-refl 𝓐 x) u
+
+\end{code}
+
+Although the previous discussion motivating the notion of an unbiased lens
+may offer the reader with insight into the first three datum one may take a
+moments pause at the final field rext-refl. You will see below that it is
+not necessary for defining a displayed reflexive graph associated to an
+unbiased lens, but it will be relevant when showing univalence is inherited.
+The reader may wonder why we only include a reflexivity a the rext field? The
```
Comment (jonsterling) [inline source/ReflexiveGraphs/UnbiasedLenses.lagda]: "a the"

File: source/ReflexiveGraphs/UnbiasedLenses.lagda [hunk 3]
```diff
@@ -0,0 +1,290 @@
...
+  ext-refl : {x : ⟨ 𝓐 ⟩} (u : ⟨ 𝓑 (≈-refl 𝓐 x) ⟩)
+           → lext (≈-refl 𝓐 x) u ≈⟨ 𝓑 (≈-refl 𝓐 x) ⟩ rext (≈-refl 𝓐 x) u
+  rext-refl : {x : ⟨ 𝓐 ⟩} (u : ⟨ 𝓑 (≈-refl 𝓐 x) ⟩)
+            → u ≈⟨ 𝓑 (≈-refl 𝓐 x) ⟩ rext (≈-refl 𝓐 x) u
+
+\end{code}
+
+Although the previous discussion motivating the notion of an unbiased lens
+may offer the reader with insight into the first three datum one may take a
+moments pause at the final field rext-refl. You will see below that it is
```
Comment (jonsterling) [inline source/ReflexiveGraphs/UnbiasedLenses.lagda]: moment's

**Review by jonsterling — CHANGES_REQUESTED** [review]
Cool! A few comments & typos.

**Comment by IanRay11** [comment]
Thanks @jonsterling. @martinescardo @tomdjong this is ready for the another round. As I said the content parallels the previous PR but some scrutiny should be applied to my attempted explanation/motivation.

File: source/ReflexiveGraphs/UnbiasedLenses.lagda [hunk 4]
```diff
@@ -0,0 +1,290 @@
...
+open import ReflexiveGraphs.Displayed
+open import ReflexiveGraphs.DisplayedUnivalent
+open import ReflexiveGraphs.Lenses
+open import ReflexiveGraphs.Type
+open import ReflexiveGraphs.Univalent
+
+\end{code}
+
+In this file we generalize the two previous notion of lenses, but before diving
+into the techincal details we attempt to motivate the notion of an unbiased lens
```
Comment (tomdjong) [inline source/ReflexiveGraphs/UnbiasedLenses.lagda]: technical

File: source/ReflexiveGraphs/UnbiasedLenses.lagda [hunk 5]
```diff
@@ -0,0 +1,290 @@
...
+(see index for link to Jon Sterling's "Reflexive graph lenses in univalent
+foundations"). We first note that, not surpisingly, some univalent reflexive
```
Comment (tomdjong) [inline source/ReflexiveGraphs/UnbiasedLenses.lagda]: surprisingly

File: source/ReflexiveGraphs/UnbiasedLenses.lagda [hunk 6]
```diff
@@ -0,0 +1,290 @@
...
+graphs of interest do not arise naturally from the existing notion of lenses.
+For example consider an isomorphism of magmas (M , ⊗) ≃ (N , ⊗') which consist
+of an equivalence of the underlying types e : M ≃ N that preserves the binary
+operation, that is: e (x ⊗ y) ＝ (e x) ⊗' (e y) for all x, y : M. One could
+produce the reflexive graph for the type of Magmas from the following displayed
```
Comment (tomdjong) [inline source/ReflexiveGraphs/UnbiasedLenses.lagda]: magmas

File: source/ReflexiveGraphs/UnbiasedLenses.lagda [hunk 7]
```diff
@@ -0,0 +1,290 @@
...
+reflexive graph 
+
+          BinOp(M) :≡ M × M → M
+          ⊗ ≈⟨ BinOp , e ⟩ ⊗' :≡ (x y : M) → e (x ⊗ y) ＝ (e x) ⊗' (e y)
+          ≈-disp-refl BinOp ⊗ :≡ λ x y : M . refl {x ⊗ y}
+
+but notice that this displayed reflexive graph DOES NOT arise from either of
+the existing notions of lens. We could consider a similar, albeit assymetric
```
Comment (tomdjong) [inline source/ReflexiveGraphs/UnbiasedLenses.lagda]: asymmetric

File: source/ReflexiveGraphs/UnbiasedLenses.lagda [hunk 8]
```diff
@@ -0,0 +1,290 @@
...
+          BinOp(M) :≡ M × M → M
+          ⊗ ≈⟨ BinOp , e ⟩ ⊗' :≡ (x y : N) → e (e⁻¹ x ⊗  e⁻¹ y) ＝ x ⊗' y
+          ≈-disp-refl BinOp ⊗ :≡ λ x y : M . refl {x ⊗ y}
+
+which does arise from an oplax contravariant lens. Aesthetically, the latter
+is lacking but more importantly it is awkward to use. What we need is a notion
+of lens that allows us to mediate between either side of the edge we are
+displaying over. Without further delay we now introduce the notion of an
+unbiased lens. (TODO when the examples file is added we should note that the
+above Magma example is actually formalized.)
```
Comment (tomdjong) [inline source/ReflexiveGraphs/UnbiasedLenses.lagda]: magma

File: source/ReflexiveGraphs/UnbiasedLenses.lagda [hunk 9]
```diff
@@ -0,0 +1,290 @@
...
+
+We define the structure of an unbiased lens using a record then collect the
```
Comment (tomdjong) [inline source/ReflexiveGraphs/UnbiasedLenses.lagda]: and then

File: source/ReflexiveGraphs/UnbiasedLenses.lagda [hunk 10]
```diff
@@ -0,0 +1,290 @@
...
+Although the previous discussion motivating the notion of an unbiased lens
+may offer the reader with insight into the first three datum one may have a
+moment's pause at the final field rext-refl. You will see below that it is
+not necessary for defining a displayed reflexive graph associated to an
+unbiased lens, but it will be relevant when showing univalence is inherited.
+The reader may wonder why we only include a reflexivity datum for the rext
+field? The situation here is similar to that of half-adjoint equivalences
+where we must exclude one of the coherences in the interest of ensuring that
+being an equivalence is a property (although it is worth noting that the
+situation does differ in that the anaglous lext-refl is not derivable from
```
Comment (tomdjong) [inline source/ReflexiveGraphs/UnbiasedLenses.lagda]: analogous

File: source/ReflexiveGraphs/UnbiasedLenses.lagda [hunk 11]
```diff
@@ -0,0 +1,290 @@
...
+Minor changes and merged into TypeToplogy in June 2026.
+
+\begin{code}
+
+{-# OPTIONS --safe --without-K #-}
+
+module ReflexiveGraphs.UnbiasedLenses where
+
+open import MLTT.Spartan
+open import UF.Base
```
Comment (tomdjong) [inline source/ReflexiveGraphs/UnbiasedLenses.lagda]:
```
tom@pop-os ~/r/r/source (UnbiasedLens)> ../imports.sh ReflexiveGraphs/UnbiasedLenses.lagda 
Importing UF.Base was not necessary
Importing UF.Subsingletons was not necessary
Importing ReflexiveGraphs.Constructions was not necessary
```

File: source/ReflexiveGraphs/UnbiasedLenses.lagda [hunk 12]
```diff
@@ -0,0 +1,290 @@
...
+  rext : {x y : ⟨ 𝓐 ⟩} (p : x ≈⟨ 𝓐 ⟩ y) → ⟨ 𝓑 (≈-refl 𝓐 y) ⟩ → ⟨ 𝓑 p ⟩
+  ext-refl : {x : ⟨ 𝓐 ⟩} (u : ⟨ 𝓑 (≈-refl 𝓐 x) ⟩)
+           → lext (≈-refl 𝓐 x) u ≈⟨ 𝓑 (≈-refl 𝓐 x) ⟩ rext (≈-refl 𝓐 x) u
+  rext-refl : {x : ⟨ 𝓐 ⟩} (u : ⟨ 𝓑 (≈-refl 𝓐 x) ⟩)
+            → u ≈⟨ 𝓑 (≈-refl 𝓐 x) ⟩ rext (≈-refl 𝓐 x) u
+
+\end{code}
+
+Although the previous discussion motivating the notion of an unbiased lens
+may offer the reader with insight into the first three datum one may have a
```
Comment (tomdjong) [inline source/ReflexiveGraphs/UnbiasedLenses.lagda]: _data_ (as three is plural), or just _fields_

File: source/ReflexiveGraphs/UnbiasedLenses.lagda [hunk 13]
```diff
@@ -0,0 +1,290 @@
...
+moment's pause at the final field rext-refl. You will see below that it is
+not necessary for defining a displayed reflexive graph associated to an
+unbiased lens, but it will be relevant when showing univalence is inherited.
+The reader may wonder why we only include a reflexivity datum for the rext
+field? The situation here is similar to that of half-adjoint equivalences
```
Comment (tomdjong) [inline source/ReflexiveGraphs/UnbiasedLenses.lagda]: field.

File: source/ReflexiveGraphs/UnbiasedLenses.lagda [hunk 14]
```diff
@@ -0,0 +1,290 @@
...
+      → (x ≈⟨ 𝓐 ⟩ y)
+      → ⟨ unbiased-graph 𝓛 (≈-refl 𝓐 x) ⟩
+      → ⟨ unbiased-graph 𝓛 (≈-refl 𝓐 y) ⟩
+      → 𝓥' ̇
+   II p u v = unbiased-lext 𝓛 p u ≈⟨ unbiased-graph 𝓛 p ⟩ unbiased-rext 𝓛 p v
+   III : {x : ⟨ 𝓐 ⟩} (u : ⟨ unbiased-graph 𝓛 (≈-refl 𝓐 x) ⟩)
+       → II (≈-refl 𝓐 x) u u
+   III {x} u = unbiased-ext-refl 𝓛 u
+
+ disp± : Unbiased-Lens 𝓤' 𝓥' 𝓐 → Displayed-Refl-Graph 𝓤' 𝓥' 𝓐
```
Comment (tomdjong) [inline source/ReflexiveGraphs/UnbiasedLenses.lagda:157]: Why `±`?

File: source/ReflexiveGraphs/UnbiasedLenses.lagda [hunk 15]
```diff
@@ -0,0 +1,290 @@
...
+  → is-univalent-refl-graph (unbiased-graph 𝓛 (≈-refl 𝓐 x)))
+  → is-displayed-univalent-refl-graph 𝓐 (disp± 𝓛)
+ disp-unbiased-lens-univalent 𝓛 fibers-ua x u 
+  = equiv-to-prop
+     (compute-fan-of-unbiased-lens 𝓛 fibers-ua x u)
+     (fibers-ua x (unbiased-lext 𝓛 (≈-refl 𝓐 x) u))
+
+\end{code}
+
+We can construct unbiased lenses from an oplax covariant lenses.
```
Comment (tomdjong) [inline source/ReflexiveGraphs/UnbiasedLenses.lagda]: Is it correct that this reverses the magma example given at the top, i.e. we go from `(x y : N) → e (e⁻¹ x ⊗  e⁻¹ y) ＝ x ⊗' y` to `(x y : M) → e (x ⊗ y) ＝ (e x) ⊗' (e y)`? If so, maybe that's helpful to record?

File: source/ReflexiveGraphs/UnbiasedLenses.lagda [hunk 16]
```diff
@@ -0,0 +1,290 @@
...
+module _ {𝓤' 𝓥' : Universe} (𝓐 : Refl-Graph 𝓤 𝓥) where
+
+ private
+  observation' : (𝓛 : Oplax-Covariant-Lens 𝓤' 𝓥' 𝓐)
+               → disp⁺ 𝓐 𝓛 ＝ disp± 𝓐 (disp±̂⁺ 𝓐 𝓛)
+  observation' 𝓛 = refl
+
+\end{code}
+
+We now construct an unbiased lense from lax contravariant lenses.
```
Comment (tomdjong) [inline source/ReflexiveGraphs/UnbiasedLenses.lagda]: lens

File: source/ReflexiveGraphs/UnbiasedLenses.lagda (hunk 14 above)
Comment (IanRay11) [reply source/ReflexiveGraphs/UnbiasedLenses.lagda:157]: In the Lenses.lagda file we called the displayed reflexive graph generated from an oplax (lax) covariant (contravariant) lens disp+ (disp-). The thought is that since unbiased lens generalize the two I combined the notations.

File: source/ReflexiveGraphs/UnbiasedLenses.lagda (hunk 15 above)
Comment (IanRay11) [reply source/ReflexiveGraphs/UnbiasedLenses.lagda]: Let me check the details and if so I will add the note.

Comment (IanRay11) [reply source/ReflexiveGraphs/UnbiasedLenses.lagda]: It seems to me that this is not correct. In fact, converting the oplax lens (for the former displayed reflexive graph) to an unbiased lens doesn't really encode any new or interesting information relating to the type of mixed variance we get from an unbiased lens. Maybe @jonsterling has something to say about this, but no guarentees.

Comment (tomdjong) [reply source/ReflexiveGraphs/UnbiasedLenses.lagda]: Too bad. It was just a naive guess on my part anyway.

Comment (IanRay11) [reply source/ReflexiveGraphs/UnbiasedLenses.lagda]: I think the guess was motivated by a reasonable idea that is analgous to the computation rule observed in the file, but on second glance the computation rule should give you insight to why your idea doesn't work: 
disp⁺ 𝓐 𝓛 ＝ disp± 𝓐 (unbias⁺ 𝓐 𝓛) , where 𝓛 : Oplax-Covariant-Lens 𝓤' 𝓥' 𝓐.
That is, converting to an unbiased lens then displaying doesn't gain us anything new. Sorry I didn't immediately realize this.

Comment (IanRay11) [reply source/ReflexiveGraphs/UnbiasedLenses.lagda]: Also your comment made me realize the previous notation was bad, so still a good outcome!

**Comment by tomdjong** [comment]
Let's see if @martinescardo would like to have a look.

**Comment by martinescardo** [comment]
I'll look at this at some point today.

File: source/ReflexiveGraphs/UnbiasedLenses.lagda [hunk 17]
```diff
@@ -0,0 +1,287 @@
...
+
+          BinOp(M) :≡ M × M → M
+          ⊗ ≈⟨ BinOp , e ⟩ ⊗' :≡ (x y : N) → e (e⁻¹ x ⊗  e⁻¹ y) ＝ x ⊗' y
+          ≈-disp-refl BinOp ⊗ :≡ λ x y : M . refl {x ⊗ y}
+
+which does arise from an oplax contravariant lens. Aesthetically, the latter
+is lacking but more importantly it is awkward to use. What we need is a notion
+of lens that allows us to mediate between either side of the edge we are
+displaying over. Without further delay we now introduce the notion of an
+unbiased lens. (TODO when the examples file is added we should note that the
```
Comment (martinescardo) [inline source/ReflexiveGraphs/UnbiasedLenses.lagda:49]: Just a note to say that once this development is completed, the file `UF.SIP` and `UF.SIP-Examples` just point to this development.

And I have a question that doesn't need to be added here. How does this development relate to that development?

File: source/ReflexiveGraphs/UnbiasedLenses.lagda [hunk 18]
```diff
@@ -0,0 +1,287 @@
...
+ open unbiased-lens-structure s
+
+ unbiased-graph : {x y : ⟨ 𝓐 ⟩} → (x ≈⟨ 𝓐 ⟩ y) → Refl-Graph 𝓤' 𝓥'
+ unbiased-graph = 𝓑
+
+ unbiased-fam : {x y : ⟨ 𝓐 ⟩} → (x ≈⟨ 𝓐 ⟩ y) → 𝓤' ̇
+ unbiased-fam p = ⟨ unbiased-graph p ⟩
+
+ unbiased-lext : {x y : ⟨ 𝓐 ⟩} (p : x ≈⟨ 𝓐 ⟩ y)
+                    → ⟨ 𝓑 (≈-refl 𝓐 x) ⟩
```
Comment (martinescardo) [inline source/ReflexiveGraphs/UnbiasedLenses.lagda]: Align the arrows with ":". Also in the next definition.

File: source/ReflexiveGraphs/UnbiasedLenses.lagda [hunk 19]
```diff
@@ -0,0 +1,287 @@
...
+   II p u v = unbiased-lext 𝓛 p u ≈⟨ unbiased-graph 𝓛 p ⟩ unbiased-rext 𝓛 p v
+   III : {x : ⟨ 𝓐 ⟩} (u : ⟨ unbiased-graph 𝓛 (≈-refl 𝓐 x) ⟩)
+       → II (≈-refl 𝓐 x) u u
+   III {x} u = unbiased-ext-refl 𝓛 u
+
+ disp± : Unbiased-Lens 𝓤' 𝓥' 𝓐 → Displayed-Refl-Graph 𝓤' 𝓥' 𝓐
+ disp± 𝓛 = display-unbiased-lens 𝓛
+
+ private
+  observation
```
Comment (martinescardo) [inline source/ReflexiveGraphs/UnbiasedLenses.lagda]: Maybe use a subscript 1 for the `observation`.

File: source/ReflexiveGraphs/UnbiasedLenses.lagda [hunk 20]
```diff
@@ -0,0 +1,287 @@
...
+
+We open a new module so we can make the carriers in the arguments of the
+induced displayed reflexive graphs explicit in the following observation.
+
+\begin{code}
+
+module _ {𝓤' 𝓥' : Universe} (𝓐 : Refl-Graph 𝓤 𝓥) where
+
+ private
+  observation' : (𝓛 : Oplax-Covariant-Lens 𝓤' 𝓥' 𝓐)
```
Comment (martinescardo) [inline source/ReflexiveGraphs/UnbiasedLenses.lagda]: Maybe use a subscript 2 for the `observation`.

File: source/ReflexiveGraphs/UnbiasedLenses.lagda [hunk 21]
```diff
@@ -0,0 +1,287 @@
...
+        ; rext-refl = λ {x} u → pull-refl u
+        }
+
+ unbias⁻ : Lax-Contravariant-Lens 𝓤' 𝓥' 𝓐 → Unbiased-Lens 𝓤' 𝓥' 𝓐
+ unbias⁻ 𝓛 = lax-contravariant-to-unbiased-lens 𝓛
+
+module _ {𝓤' 𝓥' : Universe} (𝓐 : Refl-Graph 𝓤 𝓥) where
+
+ private
+  observation'' : (𝓛 : Lax-Contravariant-Lens 𝓤' 𝓥' 𝓐)
```
Comment (martinescardo) [inline source/ReflexiveGraphs/UnbiasedLenses.lagda]: Maybe use a subscript 3 for the `observation`.

**Review by martinescardo — CHANGES_REQUESTED** [review]
Very elegant. I only have minor cosmetic suggestions. (And a question that can be discussed in our TypeTopology chat.)

File: source/ReflexiveGraphs/UnbiasedLenses.lagda (hunk 17 above)
Comment (IanRay11) [reply source/ReflexiveGraphs/UnbiasedLenses.lagda:49]: Noted about adding a pointer in SIP, etc. 

Also, in the examples file (which is upcoming) I will add an observation that the sigma of an SNS and a displayed reflexive graph with base reflexive graph given by a univalent universe are (logically) equivalent.

**Review by martinescardo — APPROVED** [review]
I am now happy with the revised version. Thanks.

@tomdjong You can merge whenever you wish.
